US07825123B2
Step 8: N-{trans-4-[2-(4-Isoxazolo[4,5-c]pyridin-3-yl-piperazin-1-yl)-ethyl]-cyclohexyl}-acetamide
A mixture in dioxane (5 ml) of trans-4-[2-(4-isoxazolo[4,5-c]pyridin-3-yl-piperazin-1-yl)-ethyl]-cyclohexylamine dihydrochloride (100 mg, 0.25 mmol), AcOH (22 mg, 0.37 mmol), iPr2NEt (161 mg, 1.2 mmol) and TBTU (96 mg, 0.30 mmol) was stirred 16 h at r.t. After evaporation to dryness sat. aq. NaHCO3 was added and the product was extracted with 2 portions of CH2Cl2. The organic layers were directly loaded on a column. Flash chromatography (20 g SiO2, CH2Cl2/MeOH 100:0→90:10) yielded 62 mg (67%) of the title compound as white solid. m/z=372.2 ([M+H]+).

reactant | trans-4-[2-(4-isoxazolo[4,5-c]pyridin-3-yl-piperazin-1-yl)-ethyl]-cyclohexylamine dihydrochloride | 0.25 mmol, 100 mg | Cl.Cl.O1N=C(C=2C=NC=CC21)N2CCN(CC2)CC[C@@H]2CC[C@H](CC2)N
reactant | AcOH | 0.37 mmol, 22 mg | CC(=O)O | C2H4O2
reactant | iPr2NEt | 1.2 mmol, 161 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.30 mmol, 96 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N-{trans-4-[2-(4-Isoxazolo[4,5-c]pyridin-3-yl-piperazin-1-yl)-ethyl]-cyclohexyl}-acetamide | 62 mg, 67% | O1N=C(C=2C=NC=CC21)N2CCN(CC2)CC[C@@H]2CC[C@H](CC2)NC(C)=O | C20H29N5O2
